US05990033
1) Preparation of diphenyltrimethylsilylmethane
To a solution of 5.01 g (24.3 mmol) of diphenylmethyl potassium in 25 mL of THF was added about 10 mL (about 8.6 g, 80 mmol) of chlorotrimethylsilane. The dark orange color instantly faded. The solvent was removed under reduced pressure. The residue was extracted with hexane and filtered and the solvent was removed under pressure to give the product as a pale yellowish liquid. The yield was 4.63 g, 79.3 percent. 1H NMR (C6D6) δ 7.08-7.23 (m, 8H), 6.98-7.06 (m, 2H), 3.41 (s, 1H), 0.00 (s, 9H). 13C NMR (C6D6) δ 143.2, 129.1, 128.6, 125.4, 46.5, -1.4.

reactant | diphenylmethyl potassium | 24.3 mmol, 5.01 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)[K]
reactant | chlorotrimethylsilane | 80 mmol, about 10 mL, about 8.6 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | diphenyltrimethylsilylmethane | C1(=CC=CC=C1)C([Si](C)(C)C)C1=CC=CC=C1 | C16H20Si
